US04056544
5 ml of chloroformic acid ethyl ester are added dropwise to 10 g of 1-isopropylamino-4-amino-5-nitroanthraquinone in 50 ml of N-methylpyrrolidone at room temperature. 4 ml of triethylamine are then added dropwise and the mixture is stirred further, finally for a short time at 30°-40° C, until only small amounts of starting material remain detectable. After working up with methanol, 1-isopropylamino-4-ethoxycarbonylamino-5-nitroanthraquinone is obtained.

reactant | chloroformic acid ethyl ester | 5 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | 1-isopropylamino-4-amino-5-nitroanthraquinone | 10 g | C(C)(C)NC1=CC=C(C=2C(C3=C(C=CC=C3C(C12)=O)[N+](=O)[O-])=O)N | C17H15N3O4
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | CO | CH4O
solvent | N-methylpyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 1-isopropylamino-4-ethoxycarbonylamino-5-nitroanthraquinone | C(C)(C)NC1=CC=C(C=2C(C3=C(C=CC=C3C(C12)=O)[N+](=O)[O-])=O)NC(=O)OCC | C20H19N3O6
